US04134980
1-(6,7-Dimethoxy-4(3H)-quinazolinone-3-yl)-3-[N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane-hydrochloride was prepared analogous to Example 6 (b) by debenzylation of 1-(6,7-dimethoxy-4-(3-H)-quinazolinone-3-yl)-3-[N-benzyl-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane in the presence of palladium-on-charcoal (10%) with hydrogen. Rf -value (chloroform/methanol = 9.1) : 0.45. M.p.: 192 -194° C.

reactant | 1-(6,7-dimethoxy-4-(3-H)-quinazolinone-3-yl)-3-[N-benzyl-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane | COC=1C=C2C(N(C=NC2=CC1OC)CCCN(CC1=CC=CC=C1)CCC1=CC(=C(C=C1)OC)OC)=O | C30H35N3O5
reactant | hydrogen | [H][H] | H2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 1-(6,7-Dimethoxy-4(3H)-quinazolinone-3-yl)-3-[N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane-hydrochloride | Cl.COC=1C=C2C(N(C=NC2=CC1OC)CCCNCCC1=CC(=C(C=C1)OC)OC)=O | InChI=1S/C23H29N3O5.ClH/c1-28-19-7-6-16(12-20(19)29-2)8-10-24-9-5-11-26-15-25-18-14-22(31-4)21(30-3)13-17(18)23(26)27;/h6-7,12-15,24H,5,8-11H2,1-4H3;1H
